US08003649B2
A mixture of N-[[(9aR)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,6-a]pyrazin-7-yl]methyl]-2-methylquinolin-4-amine and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 3. The crude product was purified by hplc using a Waters XTerra C18 column (5μ silica, 19 mm diameter, 100 mm length) eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give N-[[(9aR)-2-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-1,3,4,6,7,8,9,9a-octahydropyrido[1,6-a]pyrazin-7-yl]methyl]-2-methylquinolin-4-amine.

reactant | N-[[(9aR)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,6-a]pyrazin-7-yl]methyl]-2-methylquinolin-4-amine | C1[C@@H]2N(CCN1)CC(CC2)CNC2=CC(=NC1=CC=CC=C21)C | C19H26N4
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
product | N-[[(9aR)-2-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-1,3,4,6,7,8,9,9a-octahydropyrido[1,6-a]pyrazin-7-yl]methyl]-2-methylquinolin-4-amine | FC(C1=NN=C2N1N=C(C=C2)N2C[C@@H]1N(CC2)CC(CC1)CNC1=CC(=NC2=CC=CC=C12)C)(F)F | C25H27F3N8
